US05783522
3-Chloro-2-(4-chloro-3-formylphenyl)-5-trifluoromethylpyridine (Table 1, Example I.113)
6.99 g (15.1 mmol) of 3-chloro-2-(4-chloro-3-dibromomethylphenyl)-5-trifluoromethylpyridine in 100 ml of 96% strength sulfuric acid were stirred at 100° C. for one hour during which a vigorous stream of nitrogen was passed through the reaction mixture. The mixture was cooled and then poured into ice-water. The solid product was separated off, washed with water and dried under reduced pressure. Yield: 4.2 g (87%) of colorless crystals of melting point 94° C.

reactant | 3-chloro-2-(4-chloro-3-dibromomethylphenyl)-5-trifluoromethylpyridine | 15.1 mmol, 6.99 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)C(Br)Br | C13H6Br2Cl2F3N
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 3-Chloro-2-(4-chloro-3-formylphenyl)-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)C=O | C13H6Cl2F3NO
